US04985444
To a mixture of 3-(3-carboxy-2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.92 g) and potassium hydroxide powder (0.54 g) in N,N-dimethylformamide (9 ml) was added 93% methyl iodide (0.64 ml) under ice-cooling (0-5° C.) The mixture was stirred for 3 hours under ice-cooling, and then at room temperature for 1 hour and diluted with water. The resultant precipitates were filtered off and the filtrate was acidified with 5% hydrochloric acid and extracted with ethyl acetate (20 ml). The extract was washed with water (5 ml) and sodium chloride aqueous solution (5 ml), then dried over magnesium sulfate. The solvent was removed and the residue was chromatographed on silica gel (12 g) with a mixture of chloroform and methanol (100:1) as an eluent. The fractions containing the object compound were combined and evaporated in vacuo to give 3-(1-methyl-3-methoxycarbonyl-2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.34 g).

reactant | 3-(3-carboxy-2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.92 g | C(=O)(O)C=1C(NC=C(C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)=O | C19H13N3O3
reactant | potassium hydroxide | 0.54 g | [OH-].[K+]
reactant | methyl iodide | 0.64 ml | CI | CH3I
reactant | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(1-methyl-3-methoxycarbonyl-2-oxo-1,2-dihydropyridin-5-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.34 g | CN1C(C(=CC(=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C(=O)OC)=O | C21H17N3O3
